US08198311B2
To a solution of 1-tert-butyl-3-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylhex-5-enyl)urea (5.0 mg, 0.01 mmol) in anhydrous THF (2 mL) at 0 C was added 9-BBN (50 μL, 0.02 mmol) under nitrogen. Allowed reaction mixture to warm to RT and stirred overnight then added 10% NaOH solution (0.2 mL) and 30% H2O2 (1 mL). and stirred for 10 min. The reaction mixture was poured into a water (4 mL), extracted with ethyl acetate (2×10 mL), dried (Na2SO4) and purified by chromatography to give 3.2 mg (50% yield) of 1-tert-butyl-3-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-6-hydroxy-2,2-dimethylhexyl)urea. MS found: (M+H)+=455.

reactant | 1-tert-butyl-3-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylhex-5-enyl)urea | 0.01 mmol, 5.0 mg | C(C)(C)(C)NC(=O)NCC(C(CC=C)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(C)C | C26H33FN4O
reactant | 9-BBN | 0.02 mmol, 50 μL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 0.2 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 1-tert-butyl-3-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-6-hydroxy-2,2-dimethylhexyl)urea | 3.2 mg, 50% yield | C(C)(C)(C)NC(=O)NCC(C(CCCO)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(C)C | C26H35FN4O2
